US04833169
3.8 g 13 mmol) of trans-4-hydroxy-1-[(benzocyclobuten-1-yl)methyl]-piperidine-3-carboxylic acid ethyl ester, 3.6 ml (26 mmol) of triethylamine and 1.8 g (14 mmol) of 4-dimethylaminopyridine are introduced into 100 ml of dichloromethane. 1.1 ml of methanesulphonic acid chloride are added thereto at room temperature. Stirring is then carried out for 30 hours, and the reaction mixture is diluted with dichloromethane, washed 3 times with water and dried over sodium sulphate. The crude product is purified by chromatography on silica gel. The purified product is converted into the hydrochloride with ethanolic hydrochloric acid and crystallised by adding diethyl ether. Trans-1-[(benzocyclobuten-1-yl)methyl]-4-methanesulphonyloxy-piperidine-3-carboxylic acid ethyl ester hydrochloride of m.p. 145°-146° C. is obtained.

reactant | trans-4-hydroxy-1-[(benzocyclobuten-1-yl)methyl]-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1CN(CC[C@H]1O)CC1=CC2=C1C=CC=C2 | C17H21NO3
reactant | triethylamine | 26 mmol, 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonic acid chloride | 1.1 ml | CS(=O)(=O)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | 14 mmol, 1.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Trans-1-[(benzocyclobuten-1-yl)methyl]-4-methanesulphonyloxy-piperidine-3-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)[C@@H]1CN(CC[C@H]1OS(=O)(=O)C)CC1=CC2=C1C=CC=C2 | InChI=1S/C18H23NO5S.ClH/c1-3-23-18(20)16-12-19(9-8-17(16)24-25(2,21)22)11-14-10-13-6-4-5-7-15(13)14;/h4-7,10,16-17H,3,8-9,11-12H2,1-2H3;1H/t16-,17-;/m1./s1
